US07256211B1
ethyl 5-({[(2R)-2-(hydroxymethyl)-5-oxopyrrolidine-1-yl]methyl}thio)pentanoate
Under atmosphere of argon, a solution of (5R)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)pyrrolidine-2-one (2 g) in benzene (20 mL) was added by p-toluene sulfonic acid monohydrate (166 mg) and paraformic aldehyde (290 mg) and stirred for an hour at the room temperature. The mixture was added by ethyl 5-mercaptopentanoate (1.41 g) and stirred heating using Dean-Stark apparatus for three hours at the temperature of 125° C. The mixture was diluted with tert-butylmethylether solution, washed with water and saturated brine, dried over an sodium sulfate, concentrated and purified by column chromatography on silica gel (ethyl acetate:hexane=1:6). Under atmosphere of argon, the purified compound (1.9 g) in tetrahyrdorfuran solution (1.5 mL) was added by 1M tetrabutylammonium fluoride in tetrahydrofuran (4.7 mL) and stirred for an hour at room temperature. The mixture was diluted with ethyl acetate and washed with water and saturated brine. The organic layer was dried over sodium sulfate, concentrated and purified by column chromatography on silica gel (ethyl acetate:hexane=1:2) to give the title compound (1.05 mg) having the following physical data.

reactant | (5R)-5-({[tert-butyl(dimethyl)silyl]oxy}methyl)pyrrolidine-2-one | 2 g | [Si](C)(C)(C(C)(C)C)OC[C@H]1CCC(N1)=O | C11H23NO2Si
reactant | p-toluene sulfonic acid monohydrate | 166 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | paraformic aldehyde | 290 mg | C=O | CH2O
reactant | ethyl 5-mercaptopentanoate | 1.41 g | SCCCCC(=O)OCC | C7H14O2S
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | tert-butylmethylether | C(C)(C)(C)OC | C5H12O
product | ethyl 5-({[(2R)-2-(hydroxymethyl)-5-oxopyrrolidine-1-yl]methyl}thio)pentanoate | 1.05 mg | OC[C@@H]1N(C(CC1)=O)CSCCCCC(=O)OCC | C13H23NO4S
